US08053453B2
4-Methoxycarbonylbenzoic N′-(1-(1-(3,4-dimethylphenyl)-3-trifluoromethyl-5-oxo-1,5-dihydropyrazol-4-ylidene)-ethyl)-hydrazide (0.107 mmol, 50.7 mg) was dissolved in methanol (2 ml) and stirred with 1M aqueous sodium hydroxide (0.534 mmol, 0.534 ml) at room temperature for 2 hours and at 60° C. for 1.5 hours. Then, the reaction vessel was cooled to 0° C., and 1M hydrochloric acid (0.534 mmol, 0.534 ml) and water were added. The precipitated solid was collected by filtration with water and dried to obtain 4-carboxybenzoic N′-(1-(1-(3,4-dimethylphenyl)-3-trifluoromethyl-5-oxo-1,5-dihydropyrazol-4-ylidene)-ethyl)-hydrazide as a yellow solid (43.8 mg, 89%).

reactant | 4-Methoxycarbonylbenzoic N′-(1-(1-(3,4-dimethylphenyl)-3-trifluoromethyl-5-oxo-1,5-dihydropyrazol-4-ylidene)-ethyl)-hydrazide | 0.107 mmol, 50.7 mg | CC=1C=C(C=CC1C)N1N=C(C(C1=O)=C(C)NNC(C1=CC=C(C=C1)C(=O)OC)=O)C(F)(F)F | C23H21F3N4O4
reactant | sodium hydroxide | 0.534 mmol, 1M, 0.534 ml | [OH-].[Na+]
reactant | hydrochloric acid | 0.534 mmol, 1M, 0.534 ml | Cl | ClH
reactant | water | O | H2O
solvent | methanol | 2 ml | CO | CH4O
product | 4-carboxybenzoic N′-(1-(1-(3,4-dimethylphenyl)-3-trifluoromethyl-5-oxo-1,5-dihydropyrazol-4-ylidene)-ethyl)-hydrazide | 43.8 mg, 89% | CC=1C=C(C=CC1C)N1N=C(C(C1=O)=C(C)NNC(C1=CC=C(C=C1)C(=O)O)=O)C(F)(F)F | C22H19F3N4O4
